US06303612B1
2-(3-Methoxyphenylsulfanyl)benzoic acid was reduced with sodium bis-(methoxyethyoxy)-aluminum hydride to provide in 87.6% yield 2-(3-methoxyphenylsulfanyl)benzyl alcohol. This compound was without purification treated with thionyl chloride to provide in 91.0% yield 2-(3-methoxyphenylsulfanyl)benzyl chloride which treated with sodium cyanide provided nearly quantitatively 2-(3-methoxyphenylsulfanyl)phenylacetonitrile. Alkaline hydrolysis of this crude nitrile provided after work-up 65.1% yield of 2-(3-methoxyphenylsulfanyl)phenylacetic acid, m.p. 63-65° C. Corresponding 4-(4-hydroxyphenylsulfanyl)phenylacetic acid, m.p. 163-165° C., was obtained in 76.5% yield. For C14H12O3S (260.3) calculated: 64.60% C, 4.65% H, 12.32% S; found: 64.30% C, 4.85% H, 12.10% S. This acid was esterified with methanol in the presence of sulfuric acid to give the required ester in 78.9% yield, m.p. 54-56° C. For C15H14O3S (274.3) calculated: 65.69% C, 5.15% H, 11.67% S; found: 64.79% C, 5.25% H, 11.45% S. 1H NMR spectrum (CDCl3): H(O) 5.60 bs; CH2 3.85 s; aromatic H on the phenolic nucleus: H(2) 6.54 dd, J=1.6, 2.5 Hz; H(5) 7.08 dd, J=7.9, 8.2 Hz; H(6) 6.72 ddd, J=1.0, 1.6, 7.9 Hz.

reactant | 2-(3-Methoxyphenylsulfanyl)benzoic acid | COC=1C=C(C=CC1)SC1=C(C(=O)O)C=CC=C1 | C14H12O3S
reactant | sodium bis-(methoxyethyoxy)-aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
product | 2-(3-methoxyphenylsulfanyl)benzyl alcohol | 87.6% yield | COC=1C=C(C=CC1)SC1=C(CO)C=CC=C1 | C14H14O2S
